US08426447B2
A 350 mL sealable flask was charged with (R)-2′-amino-3-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (12.10 g, 34.8 mmol) and DMF (99 mL, 34.8 mmol). To this solution was added cesium carbonate (28.3 g, 87 mmol). The resulting brown slurry was stirred at rt for 3 minutes before neopentyl iodide (9.21 mL, 69.5 mmol) was added in one portion. The reaction vessel was sealed and heated at 100° C. After heating for 4 hours another 1 mL of neopentyl iodide was added and heating at 100° C. was continued for another 1 hour at which point the reaction was allowed to cool to room temperature. The reaction was diluted with ethyl acetate (500 mL) and poured into water (2000 mL) before being transferred into a separatory funnel containing ethyl acetate (500 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×500 mL). The combined organic layers were washed with water and then brine. The aqeuous layer was combined with the above brined wash and was then extracted with DCM (2×500 mL). The organic layers were washed with water and then brine. All of the organigs were combined, dried over sodium sulfate, filtered and concentrated in vacuo to provide a brown foam that was purified by silica gel chromatography (Redi-Sep pre-packed silica gel column (330 g), 0-10% methanol in methylenechloride with 0.1% ammonium hydroxide) to provide (R)-3-bromo-7-(neopentyloxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a light yellow solid.

reactant | (R)-2′-amino-3-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 34.8 mmol, 12.10 g | NC=1OC[C@@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)Br)O | C14H10BrN3O3
reactant | DMF | 34.8 mmol, 99 mL | CN(C)C=O | C3H7NO
reactant | cesium carbonate | 87 mmol, 28.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | neopentyl iodide | 69.5 mmol, 9.21 mL | C(C(C)(C)C)I | C5H11I
reactant | neopentyl iodide | 1 mL | C(C(C)(C)C)I | C5H11I
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 2000 mL | O | H2O
product | (R)-3-bromo-7-(neopentyloxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@@]21N=C(OC1)N)OCC(C)(C)C | C19H20BrN3O3
